US08461134B2
4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide
To a stirred solution of 2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride (300 mg, 0.78 mmol) and 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol (194 mg, 1.3 mmol) in 5 mL of ACN was added pyridine (1.26 mL, 9.1 mmol) dropwise. The reaction mixture was stirred at room temperature for 3 hours. After the mixture was concentrated, the residue was extracted with ethyl acetate and washed with water, 1N HCl and brine. The organic layer was dried over Na2SO4 and concentrated to give the desired compound as a yellow solid (318 mg, yield 82%). MS calcd for (C19H16BN4O6F3S): 496.2, MS found (ESI negative): (M−H)−=495.1. 1H NMR (DMSO-d6) δ (ppm): 11.5 (s, 1H), 10.5 (s, 1H), 9.20 (s, 1H), 7.93 (d, J=8.8 Hz, 1H), 7.80 (s, J=8.4 Hz, 1H), 7.59 (s, 1H), 7.44 (s, 1H), 7.25 (d, J=8.0 Hz, 1H), 7.12 (d, J=8.0 Hz, 1H), 4.86 (s, 2H), 4.59 (s, 2H), 2.40 (s, 3H)

reactant | 2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)-4-(2,2,2-trifluoroacetamido)benzene-1-sulfonyl chloride | 0.78 mmol, 300 mg | CC1=NN=C(O1)CC1=C(C=CC(=C1)NC(C(F)(F)F)=O)S(=O)(=O)Cl | C12H9ClF3N3O4S
reactant | 6-aminobenzo[c][1,2]oxaborol-1(3H)-ol | 1.3 mmol, 194 mg | NC=1C=CC2=C(B(OC2)O)C1 | C7H8BNO2
reactant | pyridine | 9.1 mmol, 1.26 mL | N1=CC=CC=C1 | C5H5N
solvent | ACN | 5 mL | C(C)#N | C2H3N
product | 4-Amino-N-(1-hydroxy-1,3-dihydrobenzo[c][1,2]oxaborol-6-yl)-2-((5-methyl-1,3,4-oxadiazol-2-yl)methyl)benzenesulfonamide | 318 mg, yield 82% | NC1=CC(=C(C=C1)S(=O)(=O)NC=1C=CC2=C(B(OC2)O)C1)CC=1OC(=NN1)C | C17H17BN4O5S
